US09428490B2
tert-Butyl 6-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-azabicyclo[3.1.0]hexane-3-carboxylate (1.9 g, 1.0 eq.) was dissolved in DCM (20 mL) TFA (1.38 mL, 4 eq) was added dropwise at 0° C. and the reaction mixture was stirred at room temperature for 4 h. The reaction mixture was cooled to 0° C. and neutralized by saturated NaHCO3. The solid precipitated out was collected by filtration to afford 1.0 g of (9H-fluoren-9-yl)methyl 3-azabicyclo[3.1.0]hexan-6-ylcarbamate (69% yield).

reactant | tert-Butyl 6-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-azabicyclo[3.1.0]hexane-3-carboxylate | 1.9 g, 1.0 eq. | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC1C2CN(CC12)C(=O)OC(C)(C)C | C25H28N2O4
reactant | DCM | 20 mL, 4 eq | C(Cl)Cl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (9H-fluoren-9-yl)methyl 3-azabicyclo[3.1.0]hexan-6-ylcarbamate | 1.0 g, 69% yield | C12CNCC2C1NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O | C20H20N2O2
